US05130119
(c) 3-[N-(4-Fluoro-2-trifluoromethylphenyl)sulfamoyl]- benzenesulfonic acid-(2,3,4-trihydroxybutyl)amide
2.78 g (5 mmol) of 3-[N-(4-fluoro-2-trifluoromethylphenyl)sulfamoyl]-benzenesulfonic acid-[2-hydroxy-2-(2,2-dimethyl-1,3-dioxolan-4-yl)-ethylamide] is dissolved in 10 ml of methanol, 10 ml of water and a catalytic amount of cation exchanger Amberlyst 15 are added and boiled for 1 hour. The ion exchanger is filtered off and the filtrate is evaporated to dryness. 2.12 g (4.12 mmol)=82.3% of the theoretical yield of the product is obtained as an amorphous solid.

reactant | 3-[N-(4-fluoro-2-trifluoromethylphenyl)sulfamoyl]-benzenesulfonic acid-[2-hydroxy-2-(2,2-dimethyl-1,3-dioxolan-4-yl)-ethylamide] | 5 mmol, 2.78 g | OC(CNS(=O)(=O)C1=CC(=CC=C1)S(NC1=C(C=C(C=C1)F)C(F)(F)F)(=O)=O)C1OC(OC1)(C)C | C20H22F4N2O7S2
reactant | water | 10 ml | O | H2O
solvent | methanol | 10 ml | CO | CH4O
product | 3-[N-(4-Fluoro-2-trifluoromethylphenyl)sulfamoyl]- benzenesulfonic acid-(2,3,4-trihydroxybutyl)amide | OC(CNS(=O)(=O)C1=CC(=CC=C1)S(NC1=C(C=C(C=C1)F)C(F)(F)F)(=O)=O)C(CO)O | C17H18F4N2O7S2
